US07576078B2
(R)-6-Methoxy-4-[2-methyl-3-(4-propoxypiperidin-1-yl)propyl]-4H-benzo[1,4]oxazin-3-one (111MF42)
A 7 mL vial was charged with the crude 4-(3-iodo-2-methylpropyl)-6-methyl-4H-benzo[1,4]oxazin-3-one (1 equiv), Et3N (0.5 mL) and the secondary amine (1.2-1.5 equiv). This mixture was shaken at 60° C. for 72 h and thereafter diluted with MeOH (10 mL) and concentrated with basic Al2O3 (2 g) and purified by flash chromatography.

reactant | 4-(3-iodo-2-methylpropyl)-6-methyl-4H-benzo[1,4]oxazin-3-one | 1 equiv | ICC(CN1C(COC2=C1C=C(C=C2)C)=O)C | C13H16INO2
reactant | Et3N | 0.5 mL | CCN(CC)CC | C6H15N
reactant | MeOH | 10 mL | CO | CH4O
product | (R)-6-Methoxy-4-[2-methyl-3-(4-propoxypiperidin-1-yl)propyl]-4H-benzo[1,4]oxazin-3-one | COC=1C=CC2=C(N(C(CO2)=O)C[C@@H](CN2CCC(CC2)OCCC)C)C1 | C21H32N2O4
